US05858995
A solution of 3-tert-butoxycarbonylaminomethyl-7-(2,6-dichlorobenzoylamino)-2-methylbenzo[b]furan (312 mg) in trifluoroacetic acid (2 ml) was stirred at ambient temperature for 10 minutes. The reaction mixture was concentrated in vacuo and to the residue was added aqueous saturated sodium bicarbonate. The separated solid was collected, washed with water and dried to give 3-aminomethyl-7-(2,6-dichlorobenzoylamino)-2-methylbenzo[b]furan (210 mg).

reactant | 3-tert-butoxycarbonylaminomethyl-7-(2,6-dichlorobenzoylamino)-2-methylbenzo[b]furan | 312 mg | C(C)(C)(C)OC(=O)NCC=1C2=C(OC1C)C(=CC=C2)NC(C2=C(C=CC=C2Cl)Cl)=O | C22H22Cl2N2O4
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-aminomethyl-7-(2,6-dichlorobenzoylamino)-2-methylbenzo[b]furan | 210 mg | NCC=1C2=C(OC1C)C(=CC=C2)NC(C2=C(C=CC=C2Cl)Cl)=O | C17H14Cl2N2O2
